US07307095B2
2-(S)-(5-Chloro-benzooxazol-2-ylamino)-3-cyclohexyl-N-[2-(4-fluoro-phenylamino)-ethyl]-propionamide.
The title compound was prepared from 2,5-dichlorobenzooxazole, L-cyclohexylalanine and N1-(4-fluoro-phenyl)-ethane-1,2-diamine.2HCl using the procedure analogous to that described in example 2. 1H NMR (DMSO-d6, 400 MHz) δ 8.35 (d, 1H, J=8 Hz), 8.18 (t, 1H, J=5.8 Hz), 7.30 (d, 1H, J=8.4 Hz), 7.18 (d, 1H, J=2.0 Hz), 6.90 (dd, 1H, J=8.4 Hz, J=2.0 Hz), 6.84(m, 2H), 6.51(m, 2H), 4.19(m, 1H), 3.15(m, 2H), 2.98(m, 2H), 1.55(m, 7H), 1.30(m, 1H), 1.05(m, 3H), 0.83(m, 2H). HPLC-MS calcd. for C24H28ClFN4O2(M+H+) 459.19, found 459.4.

reactant | 2,5-dichlorobenzooxazole | ClC=1OC2=C(N1)C=C(C=C2)Cl | C7H3Cl2NO
reactant | L-cyclohexylalanine | C1CCC(CC1)C[C@@H](C(=O)O)N | C9H17NO2
reactant | N1-(4-fluoro-phenyl)-ethane-1,2-diamine | FC1=CC=C(C=C1)NCCN | C8H11FN2
product | 2-(S)-(5-Chloro-benzooxazol-2-ylamino)-3-cyclohexyl-N-[2-(4-fluoro-phenylamino)-ethyl]-propionamide | ClC=1C=CC2=C(N=C(O2)N[C@H](C(=O)NCCNC2=CC=C(C=C2)F)CC2CCCCC2)C1 | C24H28ClFN4O2
